US06020335
N-(6-Chloro-pyridin-3-ylmethyl)-3H-[1,3,4]thiadiazol-2-ylideneamine
N-Chloromethyl-6-chloropyridine (717 mg (4.43 mM)) (prepared according to the method of J. Het. Chem., 1979, 16, 333-336), 537 mg (5.31 mM) of 2-amino-1,3,4-thiadiazole and 1.99 g (13.29 mM) of sodium iodide were mixed together in 60 mL of acetone and refluxed for 18 hours. The reaction mixture was cooled to room temperature and the solvent was evaporated. The residue was dissolved in a 1:1 mixture of 50 mL of 10% NaOH and 50 mL of methylene chloride. The organic layer was dried (Na2SO4) and the solvent was evaporated. The residue was chromatographed on silica using 2% methanol in methylene chloride as the eluant. Appropriate fractions were combined to yield 282 mg (28%) of the title product as an oil. 1H-NMR (CDCl3) δ 8.45, (d, 1H, J=2.8 Hz), 7.70 (dd, 1H, J=2.8, 10.7 Hz), 7.60 (s, 1H, J=10.7 Hz), 7.28 (d, 1H, J=10.7 Hz), 5.10 (s, 2H).

reactant | N-Chloromethyl-6-chloropyridine | 4.43 mM, 717 mg | ClCN1CC=CC=C1Cl | C6H7Cl2N
reactant | 2-amino-1,3,4-thiadiazole | 5.31 mM, 537 mg | NC=1SC=NN1 | C2H3N3S
reactant | sodium iodide | 13.29 mM, 1.99 g | [I-].[Na+]
reactant | acetone | 60 mL | CC(=O)C | C3H6O
product | N-(6-Chloro-pyridin-3-ylmethyl)-3H-[1,3,4]thiadiazol-2-ylideneamine | 282 mg, 28% | ClC1=CC=C(C=N1)CN=C1SC=NN1 | C8H7ClN4S
